US07081470B2
(3Z)-1,5-DIPHENYL-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL-2-ONE
A mixture of (3z)-5-bromo-1-phenyl-3-{[3-(trifluoromethyl)phenyl]imino}-1,3-dihydro-2H-indol-2-one (22 mg, 0.05 mmol), tetrakis(triphenylphosphine)palladium(0) (12.0 mg, 0.01 mmol), benzene boronic acid (10 mg, 0.08 mmol) in THF (5 mL), and aqueous Na2CO3 (2M, 100 μL) was heated at 67° C. for 24 h. The crude product was concentrated in vacuo and the residue was extracted with CH2Cl2 (3×1 ml), concentrated, and purified by preparative TLC using 10% methanol in CHCl3, giving the desired product (4 mg, 18%).

reactant | (3z)-5-bromo-1-phenyl-3-{[3-(trifluoromethyl)phenyl]imino}-1,3-dihydro-2H-indol-2-one | 0.05 mmol, 22 mg | BrC=1C=C2/C(/C(N(C2=CC1)C1=CC=CC=C1)=O)=N/C1=CC(=CC=C1)C(F)(F)F | C21H12BrF3N2O
reactant | benzene boronic acid | 0.08 mmol, 10 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2M, 100 μL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 12.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3Z)-1,5-DIPHENYL-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL-2-ONE | 4 mg, 18% | C1(=CC=CC=C1)N1C(\C(\C2=CC(=CC=C12)C1=CC=CC=C1)=N/C1=CC(=CC=C1)C(F)(F)F)=O | C27H17F3N2O
